US07411072B2
(E)-N-[3-Fluoro-5-(8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ylidenemethyl)-phenyl]-methanesulfonamide
Following procedures essentially as desctribed in Example 219, beginning with (E)-5-bromomethylene-8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridine (50 mg, 0.16 mmol) and N-[3-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide (62 mg, 0.20 mmol). After work-up, purify the crude product by flash chromatography (50% ethyl acetate/hexanes to 75% ethyl acetate/hexanes) to provide 44 mg (65%) of purified product. LCMS (APCI-pos): 413.0 (M+H). LCMS (APCI-neg): 411.0 (M−H). Purity by LCMS 1 Area percent) 98%. 1HNMR (d6-DMSO, 400 MHz): δ9.91 (s, 1H), 8.42 (dd, 1H), 7.91 (dd, 1H), 7.29-7.25 (m, 2H), 6.92 (s, 2H), 6.90 (d, 1H), 6.77-6.74 (m, 2H), 6.52-6.49(m, 1H), 3.4-2.8 (m, 4H), 2.87 (s, 3H).

reactant | (E)-5-bromomethylene-8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridine | 0.16 mmol, 50 mg | Br\C=C\1/C2=C(CCC3=NC=CC=C31)C=C(C=C2)F | C15H11BrFN
reactant | N-[3-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 0.20 mmol, 62 mg | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C13H19BFNO4S
product | (E)-N-[3-Fluoro-5-(8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ylidenemethyl)-phenyl]-methanesulfonamide | 44 mg, 65% | FC=1C=C(C=C(C1)/C=C/1\C2=C(CCC3=NC=CC=C31)C=C(C=C2)F)NS(=O)(=O)C | C22H18F2N2O2S
